US07875600B2
4-Chloro-6-(2-thiazolyl)pyrimidine-2-amine
A suspension of the 4-hydroxy-6-(2-thiazolyl)pyrimidine-2-amine (2.64 g, 13.6 mmol) in POCl3 (30 mL) was heated at 120° C. for 3 h, cooled and concentrated in vacuo. The resulting brown solid was added to ice/water (200 g), basified with NH4OH (8 mL), filtered and purified by chromatography [SiO2; EtOAc:isohexane (2:3-1:0)] to give the title compound (1.73 g, 60%) as a pale yellow solid; NMR δH (400 MHz, DMSO) 7.22 (1H, s), 7.40 (2H, br s), 8.01 (1H, d, J 3.2 Hz) and 8.07 (1H, d, J 3.2 Hz); M/Z 213, 215 (M+H)+

reactant | 4-hydroxy-6-(2-thiazolyl)pyrimidine-2-amine | 13.6 mmol, 2.64 g | OC1=NC(=NC(=C1)C=1SC=CN1)N | C7H6N4OS
reactant | POCl3 | 30 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-(2-thiazolyl)pyrimidine-2-amine | 1.73 g, 60% | ClC1=NC(=NC(=C1)C=1SC=CN1)N | C7H5ClN4S
